US07595327B2
Triethylsilane (0.1 mL, 0.63 mmol) was added to a solution of (1R,2R)-N-(tert-butoxy)-1-fluoro-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentane carboxamide (0.13 g, 0.25 mmol) in trifluoroacetic acid (2 mL). The reaction mixture was stirred at 45° C. for 7 h, and then concentrated and chased three times with methanol/toluene. The residue was purified using silica chromatography, eluting with a gradient of 5-10% MeOH/CH2Cl2 to afford (1R,2R)-1-fluoro-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide (0.106 g, 91%). MS: 474.1 (M+H)+

reactant | Triethylsilane | 0.63 mmol, 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (1R,2R)-N-(tert-butoxy)-1-fluoro-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentane carboxamide | 0.25 mmol, 0.13 g | C(C)(C)(C)ONC(=O)[C@@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)F | C27H32FN3O5S
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (1R,2R)-1-fluoro-N-hydroxy-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxamide | 0.106 g, 91% | F[C@]1([C@@H](CCC1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)NO | C23H24FN3O5S
